US08293768B2
Synthesis of ethyl 2-(3-(benzo[c][1,2,5]thiadiazol-5-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with 5-(bromomethyl)benzo[c][1,2,5]thiadiazole to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in 82% yield: MS (ES+) m/z 404.1 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 5-(bromomethyl)benzo[c][1,2,5]thiadiazole | BrCC1=CC=2C(=NSN2)C=C1 | C7H5BrN2S
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-(benzo[c][1,2,5]thiadiazol-5-ylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 82% yield | N=1SN=C2C1C=CC(=C2)CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O | C17H17N5O3S2
